### PR TITLE
[Merged by Bors] - feat: port Algebra.Algebra.Subalgebra.Basic

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 1]
```diff
@@ -213,16 +212,17 @@ def toAddSubmonoid {R : Type u} {A : Type v} [CommSemiring R] [Semiring A] [Alge
...
-def toSubmonoid {R : Type u} {A : Type v} [CommSemiring R] [Semiring A] [Algebra R A]
-    (S : Subalgebra R A) : Submonoid A :=
-  S.toSubsemiring.toSubmonoid
-#align subalgebra.to_submonoid Subalgebra.toSubmonoid
+-- Porting note: this field already exists in Lean 4.
+-- /-- The projection from a subalgebra of `A` to a submonoid of `A`. -/
+-- def toSubmonoid {R : Type u} {A : Type v} [CommSemiring R] [Semiring A] [Algebra R A]
+--     (S : Subalgebra R A) : Submonoid A :=
+--   S.toSubsemiring.toSubmonoid
+-- #align subalgebra.to_submonoid Subalgebra.toSubmonoid
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:220]: Shouldn't you keep this?

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 2]
```diff
@@ -366,72 +361,60 @@ instance : Module R S :=
...
-  S.algebra'
+instance : Algebra R S := S.algebra'
 
 end
 
 instance noZeroSMulDivisors_bot [NoZeroSMulDivisors R A] : NoZeroSMulDivisors R S :=
-  ⟨fun c x h =>
-    have : c = 0 ∨ (x : A) = 0 := eq_zero_or_eq_zero_of_smul_eq_zero (congr_arg coe h)
+  ⟨fun {c} {x : S} h =>
+    have : c = 0 ∨ (x : A) = 0 := eq_zero_or_eq_zero_of_smul_eq_zero (congr_arg Subtype.val h)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:383]: Strictly `(↑)` would be a more faithful port of `coe`, but it doesn't matter

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 3]
```diff
@@ -566,42 +552,41 @@ variable (p : Submodule R A)
...
-#align submodule.to_subalgebra_mk Submodule.toSubalgebra_mk
+-- Porting note: not ported because we no longer have flat structures
+-- @[simp]
+-- theorem toSubalgebra_mk (s : Set A) (h0 hadd hsmul h1 hmul) :
+--     (Submodule.mk s hadd h0 hsmul : Submodule R A).toSubalgebra h1 hmul =
+--       Subalgebra.mk s (@hmul) h1 (@hadd) h0 fun r => by
+--         rw [Algebra.algebraMap_eq_smul_one]
+--         exact hsmul r h1 :=
+--   rfl
+-- #align submodule.to_subalgebra_mk Submodule.toSubalgebra_mk
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:580]: I think this should be a `#noalign`.

Although I'd argue we should still have this lemma, it will just need to be stated differently to match the new signature of `Subalgebra.mk`.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 4]
```diff
@@ -838,11 +818,11 @@ theorem toSubring_eq_top {R A : Type _} [CommRing R] [Ring A] [Algebra R A] {S :
 #align algebra.to_subring_eq_top Algebra.toSubring_eq_top
 
 theorem mem_sup_left {S T : Subalgebra R A} : ∀ {x : A}, x ∈ S → x ∈ S ⊔ T :=
-  show S ≤ S ⊔ T from le_sup_left
+  have : S ≤ S ⊔ T := le_sup_left; (this ·)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:821]: Possibly worthy of a porting note; the lean4 behavior feels weird here.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 5]
```diff
@@ -1179,52 +1153,58 @@ variable {ι : Type _}
 
 theorem coe_supᵢ_of_directed [Nonempty ι] {S : ι → Subalgebra R A} (dir : Directed (· ≤ ·) S) :
     ↑(supᵢ S) = ⋃ i, (S i : Set A) :=
+  let i := @Nonempty.some ι inferInstance
   let K : Subalgebra R A :=
     { carrier := ⋃ i, S i
-      mul_mem' := fun x y hx hy =>
+      zero_mem' := by simp only [Set.mem_unionᵢ, SetLike.mem_coe]; exact ⟨i, zero_mem _⟩
+      one_mem' := by simp only [Set.mem_unionᵢ, SetLike.mem_coe]; exact ⟨i, one_mem _⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1160]: These should have a porting note; the auto_params are supposed to do this for you.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 6]
```diff
@@ -1435,44 +1439,45 @@ end Centralizer
...
-    let N := ι'.sup n
-    have hs' := Ideal.span_pow_eq_top _ this N
-    apply (Algebra.ofId S' S).range.toSubmodule.mem_of_span_top_of_smul_mem _ hs'
-    rintro ⟨_, _, ⟨i, hi, rfl⟩, rfl⟩
-    change s i ^ N • x ∈ _
-    rw [← tsub_add_cancel_of_le (show n i ≤ N from Finset.le_sup hi), pow_add, mul_smul]
-    refine' Submodule.smul_mem _ (⟨_, pow_mem (hs i) _⟩ : S') _
-    exact ⟨⟨_, hn i⟩, rfl⟩
+  -- Porting note: needed to add this instance
+  let _i₁ : Algebra { x // x ∈ S' } { x // x ∈ S' } := Algebra.id _
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1448]: Does enabling `etaExperiment` remove the need for this? If so, can you mention that in the note?

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:821]: For what it's worth, I've seen this come up in other places.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:383]: It also doesn't work.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 7]
```diff
@@ -446,32 +429,36 @@ protected theorem coe_eq_one {x : S} : (x : A) = 1 ↔ x = 1 :=
...
-  rfl
+    S.toSubring.subtype = (S.val : S →+* A) := rfl
 #align subalgebra.to_subring_subtype Subalgebra.toSubring_subtype
 
-/-- Linear equivalence between `S : submodule R A` and `S`. Though these types are equal,
-we define it as a `linear_equiv` to avoid type equalities. -/
-def toSubmoduleEquiv (S : Subalgebra R A) : S.toSubmodule ≃ₗ[R] S :=
+/-- Linear equivalence between `S : Submodule R A` and `S`. Though these types are equal,
+we define it as a `LinearEquiv` to avoid type equalities. -/
+def toSubmoduleEquiv (S : Subalgebra R A) : (toSubmodule S) ≃ₗ[R] S :=
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:461]: No idea.

**Comment by jcommelin** [comment]
I don't have time to process these comments tonight. Please feel free to jump in.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 8]
```diff
@@ -45,24 +46,21 @@ variable [CommSemiring R]
...
+  add_mem {s} := add_mem (s := s.toSubsemiring)
+  mul_mem {s} := mul_mem (s := s.toSubsemiring)
+  one_mem {s} := one_mem s.toSubsemiring
+  zero_mem {s} := zero_mem s.toSubsemiring
 
-@[simp]
-theorem mem_carrier {s : Subalgebra R A} {x : A} : x ∈ s.carrier ↔ x ∈ s :=
-  Iff.rfl
-#align subalgebra.mem_carrier Subalgebra.mem_carrier
+-- Porting note: not ported since SetLike takes care of this
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean]: Fixed

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean]: Kept the `#align`.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:580]: Changed the statement, added porting note.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean (hunk 4 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:821]: Added porting note.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean (hunk 5 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1160]: Done.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 9]
```diff
@@ -1179,52 +1153,58 @@ variable {ι : Type _}
 
 theorem coe_supᵢ_of_directed [Nonempty ι] {S : ι → Subalgebra R A} (dir : Directed (· ≤ ·) S) :
     ↑(supᵢ S) = ⋃ i, (S i : Set A) :=
+  let i := @Nonempty.some ι inferInstance
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1156]: Done.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 10]
```diff
@@ -1234,28 +1214,52 @@ variable [Nonempty ι] {K : ι → Subalgebra R A} {dir : Directed (· ≤ ·) K
 @[simp]
 theorem suprLift_inclusion {i : ι} (x : K i) (h : K i ≤ T) :
     suprLift K dir f hf T hT (inclusion h x) = f i x := by
-  subst T <;> exact Set.unionᵢLift_inclusion _ _
+  -- Porting note: need to repeat all implicit arguments again
+  apply @Set.unionᵢLift_inclusion _ _ _ (fun i => ↑(K i)) (fun i x => f i x)
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1218]: It might. But I'd rather see the underlying issue fixed.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean (hunk 6 above)
Comment (jcommelin) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1448]: It does *not* remove the need. Added porting note.

**Comment by ChrisHughes24** [comment]
bors merge
